US09353048B2
under an atmosphere of nitrogen, compound methyl 2-fluoro-5-aminoaniline formate (72.5 mg, 0.39 mmol) was dissolved in dried DMF (5 mL), then propargyl bromide (44 μL, 0.59 mmol) and DIPEA (140 μL, 0.78 mmol) were added. The resulting solution was stirred for 6 h at 60° C., and diluted with water (10 mL) and extracted with EtOAc (10 mL×3). The combined organic phases were washed with saturated saline solution (15 mL×3), dried with anhydrous Na2SO4, concentrated and then loaded on chromatography column (PE/EtOAc=6:1-4:1) to produce a product of methyl 2-fluoro-5-(N-propargyl-imino)-aniline formate (70.1 mg, 81%);

reactant | methyl 2-fluoro-5-aminoaniline formate | 0.39 mmol, 72.5 mg | FC1=C(NC(=O)OC)C=C(C=C1)N | C8H9FN2O2
reactant | propargyl bromide | 0.59 mmol, 44 μL | C(C#C)Br | C3H3Br
reactant | DIPEA | 0.78 mmol, 140 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
product | methyl 2-fluoro-5-(N-propargyl-imino)-aniline formate | 70.1 mg, 81% | FC=1C(NC(=O)OC)=CC(CC1)=NCC#C | C11H11FN2O2
